US07582760B2
[2-(1-Benzyl-3-bromo-1H-indol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester was treated with phosphoric acid using the procedure of step 4 of Example 6 to provide [2-(1-benzyl-2-oxo-2,3-dihydro-1H-indol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester.

reactant | [2-(1-Benzyl-3-bromo-1H-indol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)Br)=O | C23H27BrN2O3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | [2-(1-benzyl-2-oxo-2,3-dihydro-1H-indol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=C2CC(N(C2=CC=C1)CC1=CC=CC=C1)=O)=O | C23H28N2O4
